US04064120
A) N,N-Dimethyl-3-[2-[(phenylimino)methyl]phenoxy]propanamine
A solution of 15 g of 2-(3-dimethylaminopropoxy)benzaldehyde and 8.0 g of aniline (distilled over zinc dust) in 300 ml of ethanol is kept at room temperature for 22 hours, refluxed for 2 hours, and the solvent removed on a rotary evaporator. The residue (21.3 g) is distilled to give 17 g of an oil; boiling point 171°-175° C/0.2 mm of Hg.

reactant | 2-(3-dimethylaminopropoxy)benzaldehyde | 15 g | CN(CCCOC1=C(C=O)C=CC=C1)C | C12H17NO2
reactant | aniline | 8.0 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N,N-Dimethyl-3-[2-[(phenylimino)methyl]phenoxy]propanamine | 17 g | CN(CCCOC1=C(C=CC=C1)C=NC1=CC=CC=C1)C | C18H22N2O
